US05332757
Using an analogous procedure to that described in Example 7, 7-[4-(4-methoxytetrahydropyran-4-yl)thien-2-ylthio]chroman-4-one was reacted with hydroxylamine hydrochloride to give (E)-7-[4-(4-methoxytetrahydropyran-4-yl)thien-2-ylthio]chroman-4-one oxime in 82% yield, m.p. 137°-138° C.;

reactant | 7-[4-(4-methoxytetrahydropyran-4-yl)thien-2-ylthio]chroman-4-one | COC1(CCOCC1)C=1C=C(SC1)SC1=CC=C2C(CCOC2=C1)=O | C19H20O4S2
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-7-[4-(4-methoxytetrahydropyran-4-yl)thien-2-ylthio]chroman-4-one oxime | 82% yield | COC1(CCOCC1)C=1C=C(SC1)SC1=CC=C2/C(/CCOC2=C1)=N/O | C19H21NO4S2
